US09238639B2
Ethyl(6-((2,4-dichlorobenzyl)sulfinyl)-1-benzothiophen-3-yl)acetate
To a mixture of ethyl(6-((2,4-dichlorobenzyl)sulfanyl)-1-benzothiophen-3-yl)acetate (315 mg), water (3.00 mL) and CH3CN (3.00 mL) was added NaIO4 (164 mg) at room temperature. The mixture was stirred at room temperature for 1 day. To the mixture was added NaIO4 (164 mg), and the mixture was stirred for further 1 day. To the mixture was added saturated aqueous Na2S2O3 at room temperature, and the mixture was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (204 mg). The residue was recrystallized from EtOAc-hexane to give the title compound.

reactant | ethyl(6-((2,4-dichlorobenzyl)sulfanyl)-1-benzothiophen-3-yl)acetate | 315 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)SCC2=C(C=C(C=C2)Cl)Cl)=O | C19H16Cl2O2S2
reactant | water | 3.00 mL | O | H2O
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH3CN | 3.00 mL | CC#N | C2H3N
product | Ethyl(6-((2,4-dichlorobenzyl)sulfinyl)-1-benzothiophen-3-yl)acetate | 204 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)S(=O)CC2=C(C=C(C=C2)Cl)Cl)=O | C19H16Cl2O3S2
